US08729102B2
1-[(1S)-2-({5-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-4-methylisoxazol-3-yl}oxy)-1-methylethyl]-3-methylurea
Using tert-butyl [(1S)-2-({5-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-4-methylisoxazol-3-yl}oxy)-1-methylethyl]carbamate, and in the same manner as in Example 16 (using pyridine instead of triethylamine), the title compound was obtained.

reactant | tert-butyl [(1S)-2-({5-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-4-methylisoxazol-3-yl}oxy)-1-methylethyl]carbamate | C1(CC1)COC=1C=CC2=C(N=C(O2)C2=C(C(=NO2)OC[C@H](C)NC(OC(C)(C)C)=O)C)C1 | C23H29N3O6
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-[(1S)-2-({5-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-4-methylisoxazol-3-yl}oxy)-1-methylethyl]-3-methylurea | C1(CC1)COC=1C=CC2=C(N=C(O2)C2=C(C(=NO2)OC[C@H](C)NC(=O)NC)C)C1 | C20H24N4O5
